US07902237B2
Preparation of 2-(5-acetyl-2-ethylamino-phenylimino)-3,5-dibenzyl-thiazolidin-4-one
To a stirred solution of 2-(5-acetyl-2-ethylamino-phenylimino)-3-benzyl-thiazolidin-4-one (0.11 g, 0.30 mmol) in THF (3 mL, anhyd) chilled to 0° C. was added dropwise 1.0 M solution of lithium bis(trimethylsilyl)amide in THF (0.30 mL, 0.30 mmol). After 5 min benzyl bromide (36 μL, 0.30 mmol) was added to the reaction mixture, which was stirred at 0° C. for 2 h and then allowed to warm to ambient temperature. After 1 h the reaction mixture was quenched with satd NH4Cl and extracted with EtOAc. The organic layer was isolated, washed with brine, dried over anhyd Na2SO4, concentrated and chromatographed (silica gel, 0:100 to 20:80 EtOAc-Hex) to yield the title product (11 mg) as a white solid. 1H-NMR (CDCl3): δ 7.66 (1H, dd, J=8.5 Hz, 2.0 Hz), 7.49 (1H, d, J=2.0 Hz), 7.19-7.35 (10H, m), 6.48 (1H, d, J=8.5 Hz), 5.00 (2H, m), 4.48 (1H, dd, J=9.0 Hz, 3.8 Hz), 3.92 (1H, hr t), 3.53 (1H, dd, J=14.1 Hz, 3.8 Hz), 3.17 (1H, dd, J=14.1 Hz, 9.0 Hz), 3.02 (2H, m), 2.47 (3H, s), 1.02 (3H, t); MS (ESI): 458 (MH+).

reactant | 2-(5-acetyl-2-ethylamino-phenylimino)-3-benzyl-thiazolidin-4-one | 0.30 mmol, 0.11 g | C(C)(=O)C=1C=CC(=C(C1)N=C1SCC(N1CC1=CC=CC=C1)=O)NCC | C20H21N3O2S
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | benzyl bromide | 0.30 mmol, 36 μL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 0.30 mmol, 0.30 mL | C1CCOC1 | C4H8O
product | 2-(5-acetyl-2-ethylamino-phenylimino)-3,5-dibenzyl-thiazolidin-4-one | 11 mg | C(C)(=O)C=1C=CC(=C(C1)N=C1SC(C(N1CC1=CC=CC=C1)=O)CC1=CC=CC=C1)NCC | C27H27N3O2S
